US07071182B2
1-(4-phenylamino-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea
A mixture of 1-(4-amino-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea (364 mg, 1 mmol), phenylboronic acid (244 mg, 2 mmol), copper(II) acetate (364 mg, 2 mmol), triethylamine (0.2 mL, 2 mmol), in 20 mL of dichloromethane was refluxed overnight. The mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (acetonitrile/ethyl acetate/triethylamine, 10/4/1) to provide the title compound as a pale white solid (200 mg, 45%). 1H NMR (300 MHz, DMSO-d6) ppm 1.63 (m, 4H), 2.45 (m, 4H), 2.86 (d, J=6.44, 2H), 4.46 (d, J=6.44, 2H), 6.74 (m, 1H), 6.98 (m, 2H), 7.03 (m, 2H), 7.18 (m, 1H), 7.33–7.36 (m, 3H), 7.58 (m, 1H), 7.88 (m, 1H), 7.90 (s, 1H), 7.95 (s, 1H), 8.44 (s, 1H), 8.55 (s, 1H); MS (DCI/NH3) m/z 441 [M+H]+.

reactant | 1-(4-amino-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea | 1 mmol, 364 mg | NC1=CC=C(C=C1)NC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C20H24N6O
reactant | phenylboronic acid | 2 mmol, 244 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 2 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 2 mmol, 364 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-phenylamino-phenyl)-3-[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-yl]-urea | 200 mg, 45% | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C26H28N6O
